US05110956
N-[2-[{(1,3-Benzodioxol-5-yl)butyl}thio]-1-oxoethyl]aminoacetic acid
1.4 g of [{(1,3-benzodioxol-5-yl)butyl}thio]acetic acid was dissolved in 10 ml of benzene, followed by the addition of 0.8 ml of thionyl chloride. The obtained mixture was heated under reflux for 1.5 hours and concentrated in a vacuum to obtain a residue. Separately, 0.43 g of sodium hydroxide was dissolved in 4 ml of water, followed by the addition of 0.8 g of glycine to obtain a mixture. The above residue was dissolved in a small amount of tetrahydrofuran to obtain a solution. This solution was dropwise added to the above mixture under cooling with ice/water. The obtained mixture was stirred for 30 minutes, followed by the addition of water. The mixture was acidified with concentrated hydrochloric acid and extracted with chloroform. The organic layer was dried over magnesium sulfate and distilled to remove the solvent. Thus, a brown oil was obtained. This oil was crystallized from isopropyl ether to obtain 1.0 g of the title compound as a light brown crystal.

reactant | [{(1,3-benzodioxol-5-yl)butyl}thio]acetic acid | 1.4 g | O1COC2=C1C=CC(=C2)CCCCSCC(=O)O | C13H16O4S
reactant | thionyl chloride | 0.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | 0.43 g | [OH-].[Na+]
reactant | glycine | 0.8 g | NCC(=O)O | C2H5NO2
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | 4 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-[{(1,3-Benzodioxol-5-yl)butyl}thio]-1-oxoethyl]aminoacetic acid | 1.0 g | O1COC2=C1C=CC(=C2)CCCCSCC(=O)NCC(=O)O | C15H19NO5S
